US04492704
6-anilinoquinoline-5,8-quinone
Six grams of 6-methoxyquinoline-5,8-quinone were dissolved in 500 ml of absolute ethanol and 9 g of cerium chloride were added. After the reaction was stirred, 3.3 g of aniline were added. The reaction mixture was refluxed for several hours, then it was stirred overnight at room temperature. The ethanol was evaporated to dryness and partitioned between chloroform and an aqueous sodium chloride solution. The chloroform layer was washed with an aqueous sodium chloride solution, dried with sodium sulfate, and then evaporated. The product was crystallized from absolute ethanol and weighed 3 g (16% yield). It had a melting point of about 182°-184° and the mass spectrum indicated the expected molecular ion at m/e=250.

reactant | 6-methoxyquinoline-5,8-quinone | Six grams | COC=1C(C=2C=CC=NC2C(C1)=O)=O | C10H7NO3
reactant | cerium chloride | 9 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | aniline | 3.3 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-anilinoquinoline-5,8-quinone | 16% yield | N(C1=CC=CC=C1)C=1C(C=2C=CC=NC2C(C1)=O)=O | C15H10N2O2
